US05661186
(-)-N-[2-(2-,3-dihydro-6-methoxy-1H-inden-3-yl)ethyl]-butanamide.
N-[2-(2-,3-dihydro-6-methoxy-1H-inden-3-yl)ethyl]amine was resolved with D-tartaric acid using the resolution technique described. The 1:1 amine: D-tartaric acid complex was shown to have an enantiomeric excess of ≤90 by 1H NMR. The resolved amine was converted into the butanamide using n-butyryl chloride according to General Procedure A. The resulting white solid was purified by recrytallization from EtOAc/Hexane and shown to be product. m.p. 79°-80° C.; 1H NMR (300 MHz, CDCl3) δ7.08 (d, J=8Hz, 1H), 6.72-6.67 (M, 2H), 5.57 (bs, 1H), 3.76 (s, 3H), 3.86-3.66 (bm, 2H), 3.08 (bm, 1H), 2.89-2.69 (bm, 2H), 2.35-2.27 (m, 1H), 2.13 (t, J=7.5 Hz, 2H), 2.06-2.00 (m, 2H), 1.7-1.5 (bm, 4H), 0.92 (t, J=7.2 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ172.0, 158.8, 148.11, 135.8, 124.9, 112.27, 109.18, 55.48, 42.67, 38.71, 37.98, 34.83, 32.47, 30.55, 19.21, 13.76; IR (KBr) 1632, 1546, 1290 cm-1 ; MS (DCI) 276m/e (MH); Analysis calc'd for C16H21NO1 : C, 78.97; H, 8.70; N, 5.76; found: C, 78.73; H, 8.90; N, 5.76.Analysis calc'd for C16H23N1O2 : C, 73.53; H, 8.87; N, 5.36; found: C, 73.47; H, 8.77; N, 5.13; [α] (25° C., 589 nm, CHCl3)=-5.26

reactant | N-[2-(2-,3-dihydro-6-methoxy-1H-inden-3-yl)ethyl]amine | COC1=CC=C2C(CCC2=C1)CCN | C12H17NO
reactant | D-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | butanamide | C(CCC)(=O)N | C4H9NO
reactant | n-butyryl chloride | CCCC(=O)Cl | C4H7ClO
product | (-)-N-[2-(2-,3-dihydro-6-methoxy-1H-inden-3-yl)ethyl]-butanamide | COC1=CC=C2C(CCC2=C1)CCNC(CCC)=O | C16H23NO2
